US06130214
(±)-Sodium 2-ethoxy-3-[4-[2-[4-oxo-3,4-dihydro-1,3-benzoxazin-3-yl]ethoxy]phenyl]propanoate
To a stirred suspension of (±)-2-ethoxy-3-[4-[2-[4-oxo-3,4-dihydro-1,3-benzoxazin-3-yl]ethoxy]phenyl]propanoic acid (100 mg, 0.26 mmol), obtained in Example 3 in methanol (3 mL) was added a solution of sodium methoxide (54 mg, 1.0 mmol) in methanol (1 mL) dropwise at 30° C. The reaction mixture was stirred for further 1 h. Diethylether (5 mL) was added and the white solid precipitated was filtered and dried to afford the title compound (85 mg, 80%): mp 186-188° C.

reactant | (±)-2-ethoxy-3-[4-[2-[4-oxo-3,4-dihydro-1,3-benzoxazin-3-yl]ethoxy]phenyl]propanoic acid | 0.26 mmol, 100 mg | C(C)OC(C(=O)O)CC1=CC=C(C=C1)OCCN1COC2=C(C1=O)C=CC=C2 | C21H23NO6
reactant | sodium methoxide | 1.0 mmol, 54 mg | C[O-].[Na+]
reactant | Diethylether | 5 mL | C(C)OCC | C4H10O
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
product | (±)-Sodium 2-ethoxy-3-[4-[2-[4-oxo-3,4-dihydro-1,3-benzoxazin-3-yl]ethoxy]phenyl]propanoate | 85 mg, 80% | C(C)OC(C(=O)[O-])CC1=CC=C(C=C1)OCCN1COC2=C(C1=O)C=CC=C2.[Na+] | InChI=1S/C21H23NO6.Na/c1-2-26-19(21(24)25)13-15-7-9-16(10-8-15)27-12-11-22-14-28-18-6-4-3-5-17(18)20(22)23;/h3-10,19H,2,11-14H2,1H3,(H,24,25);/q;+1/p-1
